US07595327B2
According to the procedure of Example 17, Steps 4 and 5, 117 mg of tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-prop-2-yn-1-ylpyrrolidine-3-carboxylate, was treated with trifluoroacetic acid, followed by the reaction with hydroxylamine to give 56 mg of cis-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-prop-2-yn-1-ylpyrrolidine-3-carboxamide in 54% yield. MS: 495 2(M+H)+

reactant | tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-prop-2-yn-1-ylpyrrolidine-3-carboxylate | 117 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CN(C1)CC#C)C(=O)OC(C)(C)C | C29H33N3O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydroxylamine | NO | H3NO
product | cis-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-prop-2-yn-1-ylpyrrolidine-3-carboxamide | 56 mg, 54% yield | ONC(=O)[C@@H]1CN(C[C@@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)CC#C | C25H26N4O5S
